US08461346B2
α-Bromomethyl-3-hydroxy-β-[(naphth-1-yl)amino]-α-(trifluoromethyl)benzeneethanol
To 20 mg (0.04 mmol) of α-Bromomethyl-3-methoxy-β-[(naphth-1-yl)amino]-α-(trifluoromethyl)benzeneethanol in 2 ml dichloromethane at −20° C. are added 0.44 ml of a 1 M solution of boron tribromide in dichloromethane under argon. The reaction mixture is stirred for 16 hours in a temperature range of between 0° C. and 25° C. The reaction mixture is mixed at 0° C. with saturated sodium bicarbonate solution. After dilution with ethyl acetate the batch is allowed to come to room temperature, stirred for 10 minutes and extracted twice with ethyl acetate. The combined organic extracts are washed with saturated NaCl solution and dried over sodium sulfate. The solvent is evaporated and the residue purified by preparative thin layer chromatography on silica gel (ethyl acetate in hexane 33%). 6.5 mg of the desired compound are isolated.

reactant | α-Bromomethyl-3-methoxy-β-[(naphth-1-yl)amino]-α-(trifluoromethyl)benzeneethanol | 0.04 mmol, 20 mg | BrCC(C(C1=CC(=CC=C1)OC)NC1=CC=CC2=CC=CC=C12)(O)C(F)(F)F | C21H19BrF3NO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | α-Bromomethyl-3-hydroxy-β-[(naphth-1-yl)amino]-α-(trifluoromethyl)benzeneethanol | 6.5 mg | BrCC(C(C1=CC(=CC=C1)O)NC1=CC=CC2=CC=CC=C12)(O)C(F)(F)F | C20H17BrF3NO2
